US08440666B2
2-(2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetamido)acetic Acid
tert-Butyl 2-(2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetamido)acetate (18 mg, 0.036 mmol) prepared in Synthetic Example 10 in dichloromethane (1 mL) was stirred with trifluoroacetic acid (0.1 mL) at room temperature. After completion of the reaction, the reaction solution was concentrated to give the desired product (15 mg, 94% yield).

reactant | tert-Butyl 2-(2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetamido)acetate | 0.036 mmol, 18 mg | BrC1=C(C=NN(C1=O)CC(=O)NCC(=O)OC(C)(C)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H33BrN4O4
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-(2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetamido)acetic Acid | 15 mg, 94% yield | BrC1=C(C=NN(C1=O)CC(=O)NCC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C18H25BrN4O4
